US07199265B2
Ethyl(3,5-dibromo-4-[4-nitrophenoxy]phenoxy) acetate (2.4 g), zink chloride (5.7 g), ethylacetate (30 mL) and ethanol (30 mL) was heated at reflux for two hours. After cooling down to room temperature, the reaction mixture was diluted with ethylacetate, washed with a saturated aqueous solution of sodium hydrogencarbonate and the organic phase dried over potassium carbonate. After concentration, 2.0 g of ethyl(3,5-dibromo-4-[4-aminophenoxy]phenoxy) acetate was obtained as a brown oil.

reactant | Ethyl(3,5-dibromo-4-[4-nitrophenoxy]phenoxy) acetate | 2.4 g | C(C)(=O)OOC1=C(C(=C(C(=C1)Br)OC1=CC=C(C=C1)[N+](=O)[O-])Br)CC | C16H13Br2NO6
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | zink chloride | 5.7 g | Cl[Zn]Cl
solvent | ethylacetate | 30 mL | C(C)OC(C)=O | C4H8O2
product | ethyl(3,5-dibromo-4-[4-aminophenoxy]phenoxy) acetate | 2.0 g | C(C)(=O)OOC1=C(C(=C(C(=C1)Br)OC1=CC=C(C=C1)N)Br)CC | C16H15Br2NO4
